************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_PEX
* Top Cell Name: inverter
* View Name:     schematic
* Netlisted on:  Mar 19 02:52:05 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD!
+        VSS!

*.PIN VDD!
*+    VSS!

************************************************************************
* Library Name: artisan_cells
* Cell Name:    INVX1TR
* View Name:    schematic
************************************************************************

.SUBCKT INVX1TR A Y
*.PININFO A:I Y:O
MM1 VSS! A Y VSS! nfet m=1 l=120.0n w=460.0n nf=1 par=1 ngcon=1 mSwitch=0 
+ idg=0 psp=0
MM0 Y A VDD! VDD! pfet m=1 l=120.0n w=640.0n nf=1 par=1 ngcon=1 mSwitch=0 
+ idg=0 psp=0
.ENDS

************************************************************************
* Library Name: stdcell_PEX
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A Y
*.PININFO A:I Y:O
XI0 A Y / INVX1TR
.ENDS

